US09315602B2
(iii) Synthesis of 6-benzyl-6-phenylfulvene
Under a nitrogen atmosphere, 2.45 g (25.7 mmol) of anhydrous magnesium chloride and 20 mL of dry THF were put into a 100-mL Schlenk flask and then stirred. To this mixed solution, 10.6 mL (21.2 mmol) of a solution of 2.0-M sodium cyclopentadienide in THF was added. Then, the product was heated for an hour under reflux, the obtained pink slurry was cooled in an ice bath, and a solution in which 3.5 g (17.8 mmol) of benzyl phenyl ketone had been dissolved in 15 mL of dry THF was subsequently added thereto. Then, the product was stirred at room temperature for 18 hours, and the obtained orange solution was quenched with dilute aqueous hydrochloric acid. Then, 30 mL of diethyl ether was added thereto, the soluble part in diethyl ether was extracted, and the organic layer was neutralized and washed with an aqueous solution of saturated sodium hydrogen carbonate, water, and a saturated salt solution and then dehydrated with anhydrous magnesium sulfate. The solvent was distilled off, and then the residue was purified by silica gel column chromatography to obtain an objective that was a reddish orange solid (amount: 2.7 g and yield: 62%).

reactant | magnesium chloride | 25.7 mmol, 2.45 g | [Cl-].[Mg+2].[Cl-]
reactant | sodium cyclopentadienide | [CH-]1C=CC=C1.[Na+]
reactant | benzyl phenyl ketone | 17.8 mmol, 3.5 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-benzyl-6-phenylfulvene | yield: 62% | C(C1=CC=CC=C1)C(=C1C=CC=C1)C1=CC=CC=C1 | C19H16
